US04297364
While stirring and with ice cooling, a solution of 17.6 g of t-butanol and 19.2 ml of pyridine in 60 ml of dichloromethane is dripped into a solution, cooled at 5° C., of 62 g of α-chloro-α-(2,4-dichlorophenyl)-acetyl chloride in 60 ml of dichloromethane in such a manner that the temperature of the reaction mixture stays below 10° C. After all the solution has been dripped in, the mixture is stirred overnight at room temperature, is then diluted with 100 ml of dichloromethane and extracted 5 times, each time with 100 ml of water. The organic phase is dried over magnesium sulfate and distilled after the solvent has been evaporated. There is obtained 58 g of α-chloro-α-(2,4-dichlorophenyl)-acetic acid t-butyl ester as a colorless oil; b.p. 98°-103° C./0.13 mbar.

reactant | t-butanol | 17.6 g | C(C)(C)(C)O | C4H10O
reactant | pyridine | 19.2 ml | N1=CC=CC=C1 | C5H5N
reactant | α-chloro-α-(2,4-dichlorophenyl)-acetyl chloride | 62 g | ClC(C(=O)Cl)C1=C(C=C(C=C1)Cl)Cl | C8H4Cl4O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | α-chloro-α-(2,4-dichlorophenyl)-acetic acid t-butyl ester | 58 g | C(C)(C)(C)OC(C(C1=C(C=C(C=C1)Cl)Cl)Cl)=O | C12H13Cl3O2
